US05710171
Step 1: Preparation of (±)-4-[(hydroxy)pentyl]-1-(phenoxy)benzene
To a solution of 4-phenoxybenzaldehyde (704 mg, 3.56 mmol) in 15 mL of THF at -78° C. was added n-BuLi dropwise (3.73 mmol, 2.5M in hexane). After 24 hours, the reaction was poured into ethyl acetate and sat. aq. NaHCO3 solution, then washed with brine, dried (Na2SO4) and concentrated in vacuo to provide the crude product.

reactant | 4-phenoxybenzaldehyde | 3.56 mmol, 704 mg | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | n-BuLi | [Li]CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (±)-4-[(hydroxy)pentyl]-1-(phenoxy)benzene | OCCCCCC1=CC=C(C=C1)OC1=CC=CC=C1 | C17H20O2
